US08729263B2
3-Hydroxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(trifluoromethoxy)phenyl trifluoromethanesulfonate (32 mg, 0.043 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (16.68 mg, 0.086 mmol) were reacted according to GENERAL METHOD 1-5 for Suzuki coupling. 5-(1H-Pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-3-(trifluoromethoxy)phenol was obtained as a yellow solid after HPLC purification. The product was converted to the HCl salt by addition of 1 M aqueous HCl (0.1 mL, 2.3 equivalents) followed by lyophilization (10 mg, 45% yield). LCMS Rt=0.48 min [Method Q], MS (M+1)=477.3. 1H NMR (METHANOL-d4) δ 8.17 (s, 2H), 8.05 (d, J=9.6 Hz, 1H), 7.68 (d, J=9.6 Hz, 1H), 7.22-7.30 (m, 2H), 4.49 (t, J=12.1 Hz, 1H), 2.33 (dd, J=13.6, 3.5 Hz, 2H), 1.70 (t, J=12.9 Hz, 2H), 1.61 (s, 6H), 1.54 (s, 6H).

reactant | 3-Hydroxy-4-(6-((2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-5-(trifluoromethoxy)phenyl trifluoromethanesulfonate | 0.043 mmol, 32 mg | FC(S(=O)(=O)OC1=CC(=C(C(=C1)OC(F)(F)F)C=1N=NC(=CC1)NC1CC(NC(C1)(C)C)(C)C)O)(F)F | C21H24F6N4O5S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.086 mmol, 16.68 mg | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | 5-(1H-Pyrazol-4-yl)-2-(6-((2,2,6,6-tetramethylpiperidin-4-yl)amino)pyridazin-3-yl)-3-(trifluoromethoxy)phenol | 45% yield | N1N=CC(=C1)C=1C=C(C(=C(C1)O)C=1N=NC(=CC1)NC1CC(NC(C1)(C)C)(C)C)OC(F)(F)F | C23H27F3N6O2
